US04252959
Preparation of 8-Hydrazinoquinoline
A solution of hydrazine in water (equivalent to 250 ml of 100% hydrazine hydrate) was added to the 8-hydroxyquinoline and the mixture was refluxed under nitrogen for 68 hours. After cooling to about 40° C., brine was added and the mixture was extracted with benzene. The benzene solution was washed once with brine, three times with Claisen's alkali (prepared by dissolving 35 g of potassium hydroxide in 25 ml of water, cooling, and adding 100 ml of methanol), twice again with brine, dried over magnesium sulfate, filtered and evaporated to give 60.0 g of an orange oil which crystallized on standing. IR and NMR analysis confirmed the product to be 8-hydrazinoquinoline.

reactant | hydrazine | NN | H4N2
reactant | 8-hydroxyquinoline | OC=1C=CC=C2C=CC=NC12 | C9H7NO
solvent | water | 250 ml | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 8-Hydrazinoquinoline | 60.0 g | N(N)C=1C=CC=C2C=CC=NC12 | C9H9N3
